US05753679
1.22 g (0.0029 mol) of 1-benzyl-piperidin-4-yl 4-methyl-2-trifluoroacetamido-benzoate were suspended in 60 ml of 1N aqueous piperidine in an ultrasound bath for 1/2 hr., treated with 10 ml of dioxan and subsequently stirred at room temperature for 20 hrs. Subsequently, the mixture was heated to 50° for 5 hrs. The suspension was treated with saturated aqueous sodium chloride solution and extracted with ethyl acetate. The organic phases were dried over sodium sulfate and concentrated and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:2). 0.82 g (87%) of 1-benzyl-piperidin-4-yl 2-amino-4-methyl-benzoate was obtained as a colorless oil.

reactant | 1-benzyl-piperidin-4-yl 4-methyl-2-trifluoroacetamido-benzoate | 0.0029 mol, 1.22 g | CC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)NC(C(F)(F)F)=O | C22H23F3N2O3
reactant | dioxan | 10 ml | O1CCOCC1 | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | piperidine | 1N, 60 ml | N1CCCCC1 | C5H11N
product | 1-benzyl-piperidin-4-yl 2-amino-4-methyl-benzoate | 0.82 g, 87% | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)C | C20H24N2O2
